.include TSMC_180nm.txt

.param LAMBDA=0.09u
.param W=20*LAMBDA
.param width_N=W
.param width_P=2*W
.global gnd vdd
.option scale=0.09u

Vdd vdd gnd 1.8

Vin_a0 a0 gnd PULSE(0 1.8 0.5ns 50ps 50ps 3ns 4ns 0)
Vin_a1 a1 gnd PULSE(0 1.8 0.5ns 50ps 50ps 3ns 4ns 0)
Vin_a2 a2 gnd PULSE(0 1.8 0.5ns 50ps 50ps 3ns 4ns 0)
Vin_a3 a3 gnd 0V

Vin_b0 b0 gnd PULSE(0 1.8 1.25ns 50ps 50ps 1ns 2ns 0)
Vin_b1 b1 gnd 0V
Vin_b2 b2 gnd 0V
Vin_b3 b3 gnd 0V



.subckt inv in out vdd gnd S=1
M1000 out in vdd w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=200 ps=90
M1001 out in gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
C0 out w_0_n60# 0.08fF
C1 out gnd 0.24fF
C2 in w_0_n60# 0.09fF
C3 in gnd 0.05fF
C4 out in 0.05fF
C5 vdd w_0_n60# 0.14fF
C6 vdd out 0.45fF
C7 gnd Gnd 0.15fF
C8 out Gnd 0.09fF
C9 vdd Gnd 0.03fF
C10 in Gnd 0.16fF
C11 w_0_n60# Gnd 1.48fF
.ends inv



.subckt g_calc ai bi gi vdd gnd S=1 
M1000 gi a_7_63# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=600 ps=270
M1001 gi a_7_63# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=300 ps=140
M1002 a_7_63# bi a_7_3# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=240 ps=92
M1003 a_7_3# ai gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_7_63# ai vdd w_n6_53# CMOSP w=40 l=2
+  ad=199 pd=73 as=0 ps=0
M1005 vdd bi a_7_63# w_n6_53# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
C0 ai vdd 0.13fF
C1 inverter_0/w_0_n60# a_7_63# 0.09fF
C2 a_7_63# gnd 0.11fF
C3 a_7_63# a_7_3# 0.47fF
C4 a_7_63# bi 0.08fF
C5 w_n6_53# bi 0.12fF
C6 inverter_0/w_0_n60# gi 0.08fF
C7 gi gnd 0.24fF
C8 a_7_63# vdd 0.86fF
C9 w_n6_53# ai 0.12fF
C10 w_n6_53# vdd 0.20fF
C11 a_7_3# gnd 0.47fF
C12 gnd bi 0.02fF
C13 gi vdd 0.45fF
C14 a_7_63# w_n6_53# 0.04fF
C15 inverter_0/w_0_n60# vdd 0.14fF
C16 ai gnd 0.02fF
C17 ai bi 0.20fF
C18 bi vdd 0.13fF
C19 a_7_63# gi 0.05fF
C20 a_7_3# Gnd 0.01fF
C21 gnd Gnd 0.41fF
C22 vdd Gnd 0.04fF
C23 bi Gnd 0.07fF
C24 ai Gnd 0.07fF
C25 w_n6_53# Gnd 1.38fF
C26 gi Gnd 0.11fF
C27 a_7_63# Gnd 0.29fF
C28 inverter_0/w_0_n60# Gnd 1.51fF
.ends g_calc



.subckt pi_calc ai bi pi vdd gnd S=1 
M1000 a_32_9# a_16_9# gnd Gnd CMOSN w=20 l=2
+  ad=80 pd=48 as=400 ps=200
M1001 pi bi a_54_9# Gnd CMOSN w=20 l=2
+  ad=200 pd=100 as=80 ps=48
M1002 vdd bi a_36_6# w_3_39# CMOSP w=40 l=2
+  ad=800 pd=360 as=200 ps=90
M1003 a_54_9# ai gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_54_49# ai vdd w_3_39# CMOSP w=40 l=2
+  ad=160 pd=88 as=0 ps=0
M1005 pi a_36_6# a_54_49# w_3_39# CMOSP w=40 l=2
+  ad=400 pd=180 as=0 ps=0
M1006 a_32_49# a_16_9# vdd w_3_39# CMOSP w=40 l=2
+  ad=160 pd=88 as=0 ps=0
M1007 a_16_9# ai gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1008 gnd bi a_36_6# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1009 pi bi a_32_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 a_16_9# ai vdd w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1011 pi a_36_6# a_32_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 w_3_39# bi 0.22fF
C1 a_16_9# pi 0.03fF
C2 bi a_36_6# 0.23fF
C3 ai a_16_9# 0.07fF
C4 bi gnd 0.05fF
C5 w_3_39# a_16_9# 0.16fF
C6 vdd pi 0.50fF
C7 a_16_9# a_36_6# 0.07fF
C8 w_3_39# vdd 0.47fF
C9 a_16_9# gnd 0.50fF
C10 ai pi 0.08fF
C11 vdd a_36_6# 0.64fF
C12 w_3_39# pi 0.33fF
C13 w_3_39# ai 0.18fF
C14 a_36_6# pi 1.37fF
C15 ai a_36_6# 0.16fF
C16 gnd pi 0.27fF
C17 ai gnd 0.63fF
C18 w_3_39# a_36_6# 0.66fF
C19 a_36_6# gnd 0.24fF
C20 bi a_16_9# 0.04fF
C21 vdd bi 0.15fF
C22 bi pi 0.09fF
C23 bi ai 0.03fF
C24 vdd a_16_9# 0.86fF
C25 gnd Gnd 0.42fF
C26 pi Gnd 0.31fF
C27 vdd Gnd 0.03fF
C28 a_36_6# Gnd 0.22fF
C29 a_16_9# Gnd 0.19fF
C30 ai Gnd 0.51fF
C31 bi Gnd 0.00fF
C32 w_3_39# Gnd 4.98fF
.ends pi_calc




.subckt c2_calc p1 g0 g1 c2 vdd gnd S=1 
M1000 c2 a_24_9# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=440 ps=182
M1001 c2 a_24_9# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=300 ps=150
M1002 gnd g1 a_24_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=120 ps=52
M1003 a_9_49# p1 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1004 a_24_9# g1 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1005 a_16_9# g0 gnd Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1006 vdd g0 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_24_9# p1 a_16_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 g0 vdd 0.13fF
C1 a_9_49# vdd 0.95fF
C2 w_3_39# g0 0.12fF
C3 inverter_0/w_0_n60# vdd 0.14fF
C4 a_24_9# a_9_49# 0.54fF
C5 w_3_39# a_9_49# 0.12fF
C6 a_24_9# inverter_0/w_0_n60# 0.09fF
C7 g1 vdd 0.13fF
C8 g0 p1 0.20fF
C9 a_24_9# g1 0.08fF
C10 p1 a_9_49# 0.08fF
C11 a_24_9# vdd 0.03fF
C12 w_3_39# g1 0.12fF
C13 w_3_39# vdd 0.13fF
C14 c2 inverter_0/w_0_n60# 0.08fF
C15 a_24_9# w_3_39# 0.08fF
C16 a_24_9# gnd 0.32fF
C17 c2 vdd 0.45fF
C18 p1 g1 0.20fF
C19 p1 vdd 0.13fF
C20 a_24_9# c2 0.05fF
C21 w_3_39# p1 0.12fF
C22 g0 a_9_49# 0.08fF
C23 c2 gnd 0.24fF
C24 gnd Gnd 0.40fF
C25 vdd Gnd 0.01fF
C26 w_3_39# Gnd 2.41fF
C27 c2 Gnd 0.11fF
C28 a_24_9# Gnd 0.26fF
C29 inverter_0/w_0_n60# Gnd 1.51fF
.ends c2_calc



.subckt c3_calc p1 p2 g0 g1 g2 c3 vdd gnd S=1 
M1000 c3 a_48_9# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=640 ps=272
M1001 c3 a_48_9# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=400 ps=200
M1002 a_48_9# p2 a_24_9# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=220 ps=102
M1003 gnd g1 a_24_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_9_49# p1 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1005 gnd g2 a_48_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 a_32_49# p2 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1007 a_32_49# g1 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 a_16_9# g0 gnd Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1009 vdd g0 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 a_48_9# g2 a_32_49# w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1011 a_24_9# p1 a_16_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 p1 g0 0.20fF
C1 inverter_0/w_0_n60# a_48_9# 0.09fF
C2 a_48_9# g2 0.08fF
C3 a_48_9# a_24_9# 0.28fF
C4 g1 p1 0.20fF
C5 vdd g0 0.13fF
C6 vdd p1 0.13fF
C7 a_9_49# g0 0.08fF
C8 vdd c3 0.45fF
C9 p2 a_32_49# 0.08fF
C10 vdd a_32_49# 0.95fF
C11 a_9_49# p1 0.08fF
C12 vdd g1 0.13fF
C13 a_9_49# a_32_49# 0.48fF
C14 inverter_0/w_0_n60# c3 0.08fF
C15 vdd p2 0.13fF
C16 a_48_9# w_3_39# 0.08fF
C17 a_24_9# a_32_49# 0.08fF
C18 vdd a_9_49# 0.95fF
C19 a_24_9# g1 0.08fF
C20 a_48_9# gnd 0.35fF
C21 inverter_0/w_0_n60# vdd 0.14fF
C22 g2 p2 0.20fF
C23 vdd g2 0.13fF
C24 w_3_39# g0 0.12fF
C25 a_24_9# a_9_49# 0.03fF
C26 p1 w_3_39# 0.12fF
C27 w_3_39# a_32_49# 0.13fF
C28 g1 w_3_39# 0.12fF
C29 gnd c3 0.24fF
C30 a_24_9# a_16_9# 0.21fF
C31 p2 w_3_39# 0.12fF
C32 vdd w_3_39# 0.25fF
C33 a_9_49# w_3_39# 0.12fF
C34 g2 w_3_39# 0.12fF
C35 a_24_9# gnd 0.53fF
C36 a_16_9# gnd 0.24fF
C37 a_48_9# c3 0.05fF
C38 a_48_9# a_32_49# 0.51fF
C39 a_48_9# vdd 0.03fF
C40 a_24_9# Gnd 0.11fF
C41 a_16_9# Gnd 0.01fF
C42 gnd Gnd 0.51fF
C43 w_3_39# Gnd 3.86fF
C44 c3 Gnd 0.10fF
C45 a_48_9# Gnd 0.26fF
C46 inverter_0/w_0_n60# Gnd 1.51fF
.ends c3_calc



.subckt c4_calc p1 p2 p3 g0 g1 g2 g3 c4 vdd gnd S=1 
M1000 c4 a_72_9# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=840 ps=362
M1001 c4 a_72_9# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=500 ps=250
M1002 a_72_9# g3 a_56_49# w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=440 ps=182
M1003 a_48_9# p2 a_24_9# Gnd CMOSN w=20 l=2
+  ad=220 pd=102 as=220 ps=102
M1004 gnd g1 a_24_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 a_9_49# p1 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1006 gnd g2 a_48_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_32_49# p2 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1008 gnd g3 a_72_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=120 ps=52
M1009 a_32_49# g1 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 a_56_49# p3 vdd w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1011 a_16_9# g0 gnd Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1012 vdd g0 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1013 a_56_49# g2 a_32_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1014 a_72_9# p3 a_48_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1015 a_24_9# p1 a_16_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 a_16_9# a_24_9# 0.21fF
C1 p2 vdd 0.13fF
C2 a_56_49# w_3_39# 0.13fF
C3 a_72_9# a_48_9# 0.28fF
C4 p1 vdd 0.13fF
C5 a_56_49# a_48_9# 0.08fF
C6 p1 g0 0.20fF
C7 a_32_49# a_9_49# 0.48fF
C8 inverter_0/w_0_n60# c4 0.08fF
C9 g3 vdd 0.13fF
C10 a_72_9# gnd 0.35fF
C11 g1 w_3_39# 0.12fF
C12 g0 vdd 0.13fF
C13 a_24_9# g1 0.08fF
C14 a_16_9# gnd 0.24fF
C15 w_3_39# g2 0.12fF
C16 a_72_9# vdd 0.03fF
C17 w_3_39# a_9_49# 0.12fF
C18 a_24_9# a_9_49# 0.03fF
C19 a_72_9# g3 0.08fF
C20 a_32_49# w_3_39# 0.13fF
C21 a_56_49# vdd 0.95fF
C22 a_24_9# a_32_49# 0.08fF
C23 a_48_9# g2 0.08fF
C24 p2 g2 0.20fF
C25 a_32_49# a_48_9# 0.03fF
C26 a_72_9# a_56_49# 0.51fF
C27 w_3_39# p3 0.12fF
C28 p1 g1 0.20fF
C29 a_32_49# p2 0.08fF
C30 p1 a_9_49# 0.08fF
C31 inverter_0/w_0_n60# vdd 0.14fF
C32 g1 vdd 0.13fF
C33 a_24_9# a_48_9# 0.28fF
C34 w_3_39# p2 0.12fF
C35 g2 vdd 0.13fF
C36 a_9_49# vdd 0.95fF
C37 a_72_9# inverter_0/w_0_n60# 0.09fF
C38 a_32_49# vdd 0.95fF
C39 p1 w_3_39# 0.12fF
C40 g0 a_9_49# 0.08fF
C41 c4 gnd 0.24fF
C42 p3 vdd 0.13fF
C43 c4 vdd 0.45fF
C44 a_24_9# gnd 0.53fF
C45 w_3_39# vdd 0.37fF
C46 a_32_49# a_56_49# 0.48fF
C47 p3 g3 0.20fF
C48 w_3_39# g3 0.12fF
C49 a_48_9# gnd 0.53fF
C50 a_72_9# c4 0.05fF
C51 w_3_39# g0 0.12fF
C52 a_72_9# w_3_39# 0.08fF
C53 a_56_49# p3 0.08fF
C54 a_48_9# Gnd 0.11fF
C55 a_24_9# Gnd 0.11fF
C56 a_16_9# Gnd 0.01fF
C57 gnd Gnd 0.62fF
C58 w_3_39# Gnd 5.30fF
C59 c4 Gnd 0.11fF
C60 a_72_9# Gnd 0.25fF
C61 inverter_0/w_0_n60# Gnd 1.51fF
.ends c4_calc


x1 a0 b0 p0 vdd gnd pi_calc
x2 a1 b1 p1 vdd gnd pi_calc
x3 a2 b2 p2 vdd gnd pi_calc
x4 a3 b3 p3 vdd gnd pi_calc

x5 a0 b0 g0 vdd gnd g_calc
x6 a1 b1 g1 vdd gnd g_calc
x7 a2 b2 g2 vdd gnd g_calc
x8 a3 b3 g3 vdd gnd g_calc

x10 p1 g0 g1 c2 vdd gnd c2_calc
x11 p1 p2 g0 g1 g2 c3 vdd gnd c3_calc
x12 p1 p2 p3 g0 g1 g2 g3 c4 vdd gnd c4_calc

R1 p0 s0 0
x13 g0 p1 s1 vdd gnd pi_calc
x14 c2 p2 s2 vdd gnd pi_calc
x15 c3 p3 s3 vdd gnd pi_calc

x16 s0 nc1 vdd gnd inv
x17 s1 nc2 vdd gnd inv
x18 s2 nc3 vdd gnd inv
x19 s3 nc4 vdd gnd inv
x20 c4 nc5 vdd gnd inv

x21 s0 nc1 vdd gnd inv
x22 s1 nc2 vdd gnd inv
x23 s2 nc3 vdd gnd inv
x24 s3 nc4 vdd gnd inv
x25 c4 nc5 vdd gnd inv

.tran 0.1ps 5ns

.measure tran tplh_s3
+TRIG v(b0) VAL=0.9 RISE=1 
+TARG v(s3) VAL=0.9 RISE=1
.measure tran tphl_s3
+TRIG v(b0) VAL=0.9 FALL=1 
+TARG v(s3) VAL=0.9 FALL=1
.measure tran tp_s3 param = (tphl_s3 + tplh_s3)/2

.control
run
set curplottitle="Hrishikesh-2024122006"
plot v(a0) 2+v(a1) 4+v(a2) 6+v(a3) 8+v(b0) 10+v(b1) 12+v(b2) 14+v(b3) 
plot v(s0) 2+v(s1) 4+v(s2) 6+v(s3) 8+v(c4)
*plot v(g0) 2+v(c2) 4+v(c3) 6+v(c4)
*plot @vdd[p]
set hcopypscolor = 1

*hardcopy q4.eps 
.endc


*tplh_s3             =  5.216384e-10 targ=  1.796638e-09 trig=  1.275000e-09
*tphl_s3             =  5.505492e-10 targ=  2.875549e-09 trig=  2.325000e-09
*tp_s3               =  5.36094e-10