.include TSMC_180nm.txt

.param LAMBDA=0.09u
.param width_N=20*LAMBDA
.param width_P=2.5*width_N
.global gnd vdd

Vdd vdd gnd 1.8
*Vin A gnd pwl(0 0V 1ns 0V 1ns 1.8V 3ns 1.8V 3ns 0V 5ns 0V)
Vin_A A gnd pwl(0 0V 0.5ns 0V 0.55ns 1.8V 3.5ns 1.8V 3.55ns 0V)
Vin_clk clk gnd pwl(0 0V 1.5ns 0V 1.55ns 1.8V 3ns 1.8V 3.05ns 0V 4.5ns 0V 4.55ns 1.8V 5ns 1.8V)

.subckt d_latch_pos in out clk vdd gnd S=1 
M1 temp1 in vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M2 temp1 clk temp2 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M3 temp2 in gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}

M4 out temp1 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M5 out clk temp3 gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
M6 temp3 temp1 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
.ends d_latch_pos

.subckt d_latch_neg in out clk vdd gnd S=1 
M7 temp1 in vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M8 temp2 clk temp1 vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M9 temp2 in gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}

M10 temp3 temp2 vdd vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M11 out clk temp3 vdd CMOSP W={S*width_P} L={2*LAMBDA} 
+AS={S*5*width_P*LAMBDA} PS={10*LAMBDA+S*2*width_P} 
+AD={S*5*width_P*LAMBDA} PD={10*LAMBDA+S*2*width_P}
M12 out temp2 gnd gnd CMOSN W={S*width_N} L={2*LAMBDA} 
+AS={S*5*width_N*LAMBDA} PS={10*LAMBDA+S*2*width_N} 
+AD={S*5*width_N*LAMBDA} PD={10*LAMBDA+S*2*width_N}
.ends d_latch_neg

x1 A1 B1 clk vdd gnd d_latch_neg
x2 B1 C1 clk vdd gnd d_latch_pos
x3 A2 B2 clk vdd gnd d_latch_neg
x4 B2 C2 clk vdd gnd d_latch_pos
x5 A3 B3 clk vdd gnd d_latch_neg
x6 B3 C3 clk vdd gnd d_latch_pos
x7 A4 B4 clk vdd gnd d_latch_neg
x8 B4 C4 clk vdd gnd d_latch_pos


*C1 C gnd 100ff

M13 nc C vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} 
+AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M14 nc C gnd gnd CMOSN W={width_N} L={2*LAMBDA} 
+AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} 
+AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M15 nc C vdd vdd CMOSP W={width_P} L={2*LAMBDA} 
+AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} 
+AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M16 nc C gnd gnd CMOSN W={width_N} L={2*LAMBDA} 
+AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} 
+AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

.tran 0.1ps 6ns

.measure tran tplh
+TRIG v(clk) VAL=0.9 RISE=1 
+TARG v(C) VAL=0.9 RISE=1

.measure tran tphl
+TRIG v(clk) VAL=0.9 RISE=2 
+TARG v(C) VAL=0.9 FALL=2

.measure tran tp param = (tphl + tplh)/2

.control
run
set curplottitle="Hrishikesh-2024122006"
plot v(A) v(B) v(c) v(clk)
set hcopypscolor = 1

.endc